US08865736B2
2-[3-(Aminocarbonyl)-2,4-difluorophenoxy]acetic acid
Methyl 2-[3-(aminocarbonyl)-2,4-difluorophenoxy]acetate (7 mmol, 1 equiv.) was added to a solution of NaOH (1 g, 25 mmol, 3.6 equiv.) in water (20 ml) and isopropyl alcohol (5 ml). The mixture was stirred under reflux for 1.5 h, diluted with water (40 ml) and extracted with CH2Cl2 (40 ml). The aqueous phase was acidified to pH 1 with conc. HCl solution. The precipitant solid was filtered and dried in vacuo to give the desired compound (130 mg, 8%), mp 152-153° C. HPLC-MS (method 1): m/z 312 [M−H+2CH3CN]−, Rt=0.91 min.

reactant | Methyl 2-[3-(aminocarbonyl)-2,4-difluorophenoxy]acetate | 7 mmol, 1 equiv. | NC(=O)C=1C(=C(OCC(=O)OC)C=CC1F)F | C10H9F2NO4
reactant | NaOH | 25 mmol, 1 g, 3.6 equiv. | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | isopropyl alcohol | 5 ml | C(C)(C)O | C3H8O
solvent | water | 40 ml | O | H2O
product | 2-[3-(Aminocarbonyl)-2,4-difluorophenoxy]acetic acid | 130 mg, 8% | NC(=O)C=1C(=C(OCC(=O)O)C=CC1F)F | C9H7F2NO4
